US04198502
3-Amino-4-benzoyl-5-methyl-2-phenylpyrrole
Starting from 2-amino-2-phenylacetonitrile and benzoylacetone, the open-chain intermediate compound is obtained, melting at 134°-135° C. (from diethyl ether/hexane). The title compound is obtained in a 60% overall yield. M.P. 285°-290° C. (from methanol/diethyl ether). The free base melts at 203°-5° C. (from methanol).

reactant | 2-amino-2-phenylacetonitrile | NC(C#N)C1=CC=CC=C1 | C8H8N2
reactant | benzoylacetone | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
solvent | diethyl ether hexane | C(C)OCC.CCCCCC
product | 3-Amino-4-benzoyl-5-methyl-2-phenylpyrrole | NC1=C(NC(=C1C(C1=CC=CC=C1)=O)C)C1=CC=CC=C1 | C18H16N2O
